US04061647
3-Ethyl-2-ethylimino-4-(3,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
6 g of 2,3',4'-trichloro-5'-sulfamoyl-acetophenone and 2,6 g of 1,3-diethyl-thiourea were heated for 15 minutes to 40° C in 40 ml of methanol, the 3-ethyl-2-ethylimino-4-ol-hydrochloride was precipitated with 200 ml of diisopropyl ether and crystallized from ethyl acetate.

reactant | 2,3',4'-trichloro-5'-sulfamoyl-acetophenone | 6 g | ClCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6Cl3NO3S
reactant | 1,3-diethyl-thiourea | 2,6 g | C(C)NC(=S)NCC | C5H12N2S
solvent | methanol | 40 ml | CO | CH4O
product | 3-Ethyl-2-ethylimino-4-(3,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C(=C1)S(N)(=O)=O)Cl)Cl)=NCC | InChI=1S/C13H17Cl2N3O3S2.ClH/c1-3-17-12-18(4-2)13(19,7-22-12)8-5-9(14)11(15)10(6-8)23(16,20)21;/h5-6,19H,3-4,7H2,1-2H3,(H2,16,20,21);1H
